US05281608
3-Chloro-8,9,10,11-tetrahydro-8-(2-thienylcarbonyl)-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline
To a mixture of 0.40 g (1.55 mmol) of 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline and 2 ml of dimethylformamide at 0° C. is added 0.23 g (1.55 mmol) of 2-thiophencarbonylchloride. The reaction mixture solution is allowed to stir overnight while slowly reaching room temperature. The reaction mixture is then diluted with water producing a tan precipitate which is collected by filtration, washed with water and dried to yield 0.282 (50%) of the title compound as a tan solid: m.p.>250° C.; IR (KBr) 3420, 1640, 1440 cm-1 ; NMR (DMSO-d6) δ14.1 (s, 1H), 9.6 (s, 1H), 8.6 (d, 1H), 8.3 (s, 1H), 8.0 (d, 1H), 7.8 (d, 1H), 7.6 (s, 1H), 7.2 (d, 1H), 5.0 (s, 2H), 4.0 (t, 2H), 3.1 (m, 2H); m/e 368 (M+H).

reactant | 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 1.55 mmol, 0.40 g | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCNC1 | C14H12ClN3
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 2-thiophencarbonylchloride | 1.55 mmol, 0.23 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | water | O | H2O
product | 3-Chloro-8,9,10,11-tetrahydro-8-(2-thienylcarbonyl)-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCN(C1)C(=O)C=1SC=CC1 | C19H14ClN3OS
